US08003663B2
1,1-Dimethylethyl 4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzoate
To a solution of 2-(methylamino)ethanol (10.7 g, 11.5 ml, 144 mmol, 1.5 equivalents, commercially available e.g. from Aldrich) in dry N,N-dimethylformamide (300 ml) was added N,N-diisopropylethylamine (25 ml, 18.5 g, 144 mmol, 1.5 equivalents). To this mixture was added 1,1-dimethylethyl 4-[(8-bromooctanoyl)amino]benzoate (38.1 g, 96 mmol, 1 equivalent) in dry N,N-dimethylformamide (250 ml) over 12 minutes. The mixture was then heated to and at about 60° C. for 4.25 hours. The mixture was then cooled and the solvent was removed by evaporation using high vacuum to give a golden oil. An attempt to partition this oil between water and ethyl acetate gave a cloudy organic phase and phase separation was poor; an oil separated out as a third layer, some of which was collected and evaporated to give crude product (16.69 g). The remaining emulsion was allowed to stand overnight, giving a clear organic layer which was decanted off, dried (MgSO4) and evaporated to give further crude product as a golden oil (28.11 g). Attempts to further extract the aqueous phase with ethyl acetate or dichloromethane gave an emulsion again, from which further crude product (about 10 g) was finally isolated. The combined crude product was purified by chromatography on silica gel (about 1400 ml of 7734 silica), eluting with 5% methanol in dichloromethane, then 8% methanol in dichloromethane, then 10% methanol in dichloromethane, and finally 20% and 30% methanol in dichloromethane, to afford the title compound as a white foam (28.4 g). LCMS showed MH+=393; TRET=2.52 min.

reactant | 2-(methylamino)ethanol | CNCCO | C3H9NO
reactant | N,N-diisopropylethylamine | 144 mmol, 25 ml, 18.5 g, 1.5 equivalents | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,1-dimethylethyl 4-[(8-bromooctanoyl)amino]benzoate | 96 mmol, 38.1 g, 1 equivalent | BrCCCCCCCC(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C19H28BrNO3
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 4-({8-[(2-hydroxyethyl)(methyl)amino]octanoyl}amino)benzoate | about 10 g | OCCN(CCCCCCCC(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C22H36N2O4
